US07799933B2
(2-{[1-(3,5-Dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid ethyl ester (0.10 g, 0.20 mmol) was suspended in ethanol (1.00 mL) and treated at room temperature with 3N KOH in water (0.20 mL, 0.60 mmol). The mixture was warmed to 50° C. and stirred for 18 hours, then cooled to room temperature and evaporated. The residue was dissolved in water (1.00 mL) and set to pH 1 with HCl 1N. The resulting suspension was filtered, washing with water and the filtrate dried under vacuum to yield (2-{[1-(3,5-dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid as a white solid, 0.09 g (99%), MS (ISP): m/e=470.2 (M−H).

reactant | (2-{[1-(3,5-Dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid ethyl ester | 0.20 mmol, 0.10 g | C(C)OC(CC=1N=C(SC1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=CC(=CC(=C1)C)C)=O | C24H25N3O5S2
reactant | KOH | 3N | [OH-].[K+]
reactant | water | 0.60 mmol, 0.20 mL | O | H2O
solvent | ethanol | 1.00 mL | C(C)O | C2H6O
product | (2-{[1-(3,5-dimethyl-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid | CC=1C=C(C=C(C1)C)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)NC=1SC=C(N1)CC(=O)O | C22H21N3O5S2
